US08455483B2
3-(2-Hydroxyethyl)phenethyl methanesulfonate
Methanesulfonyl chloride (0.67 mL) in DCM (2 mL) was added dropwise to a stirred solution at 0° C. of 2,2′-(1,3-phenylene)diethanol (1.30 g) and triethylamine (1.36 mL) in DCM (30 mL). The reaction mixture was stirred for 1 hour at 0° C. and then washed with water. The aqueous layer was re-extracted with DCM and the combined organic phases were dried, filtered and the solvent evaporated under reduced pressure. The crude product was purified by flash silica chromatography using 3% methanol in dichloromethane as solvent. Fractions containing the product were evaporated to dryness to afford the titled compound. Yield 0.52 g.

reactant | Methanesulfonyl chloride | 0.67 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2,2′-(1,3-phenylene)diethanol | 1.30 g | C1(=CC(=CC=C1)CCO)CCO | C10H14O2
reactant | triethylamine | 1.36 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Hydroxyethyl)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC(=CC=C1)CCO | C11H16O4S
